US06124298
N,N'-bis-(1,3-dihydroxy-2-methylprop-2-yl)pyrazine-2,3-dicarboxamide
Pyrazine-2,3-dicarboxylic acid (34 mg, 0.2 mmol), PyBOP (229 mg, 0.44 mmol), HOBt (60 mg, 0.44 mmol) and NMM (0.7 mL, 0.64 mmol) were dissolved in DMF (2 mL) and allowed to react for 10 min. 2-Amino-2-methyl-1,3-propanediol (46 mg, 0.44 mmol) was then added and stirring was continued overnight. The entire reaction mixture was then fractionated on a RP-HPLC column (Vydac 218TP1022, 22×250 mm, 10 mL/min, 0 to 15% MeCN in 0.1% aq CF3COOH over 40 min). Appropriate fractions were pooled, rechromatographed and lyophilised to yield the pure title compound. Alternatively, the title compound was synthesised as follows: dimethylpyrazine-2,3-dicarboxylate (1.5 g, 7.7 mmol) and 2-amino-2-methyl-1,3-propanediol (1.6 g, 15.4 mmol) in absolute ethanol (5 mL) were heated under reflux during 4 hours. The reaction mixture was then cooled and the solvent was removed under reduced pressure. The residue was chromatographed on a flash silica gel column using CHCl3 /MeOH (4:1) as the eluant. Solvents were removed in vacua and the pure title compound (2.2 g, 85%) was obtained after recrystallisation from isopropanol/hexane.

reactant | Pyrazine-2,3-dicarboxylic acid | 0.2 mmol, 34 mg | N1=C(C(=NC=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | PyBOP | 0.44 mmol, 229 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.44 mmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.64 mmol, 0.7 mL | CN1CCOCC1 | C5H11NO
reactant | 2-Amino-2-methyl-1,3-propanediol | 0.44 mmol, 46 mg | NC(CO)(CO)C | C4H11NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | CC#N | C2H3N
product | N,N'-bis-(1,3-dihydroxy-2-methylprop-2-yl)pyrazine-2,3-dicarboxamide | OCC(CO)(C)NC(=O)C1=NC=CN=C1C(=O)NC(CO)(CO)C | C14H22N4O6
